US08497265B2
To a suspension of activated zinc dust (84.4 g, 1.29 mol, 1.94 eq.) in anhydrous DMA (270 mL) was added 1,2-dibromoethane (9.1 mL, 0.106 mol, 0.16 eq.), followed by the slow addition of chlorotrimethylsilane (13.5 mL, 0.106 mol, 0.16 eq.) over a period of 5 min. The resulting mixture was stirred for 15 min under nitrogen. Then a solution of tert-butyl 4-iodopiperidine-1-carboxylate (329 g, 1.06 mol, 1.59 eq.) in anhydrous DMA (670 mL) was added to the above suspension over a period of 45 min keeping the internal temperature below 65° C. The resulting mixture was stirred for 1 hour while cooling back to room temperature. The prepared zinc reagent was allowed to stand and the upper clear solution was transferred to a degassed and well stirred solution of 2,3-dichloropyrazine (99 g, 0.664 mol, 1 eq.), PdCl2(dppf) CH2Cl2 (16.3 g, 19.9 mmol, 0.03 eq.) and Cul (7.8 g, 41.2 mmol, 0.062 eq.) in anhydrous DMA (670 mL) using a cannula. DMA (400 mL) was used to rinse the remaining zinc dust and added to the above mixture. The resulting mixture was heated to 80° C. under nitrogen and stirred overnight (19 hours). The mixture was cooled to room temperature and diluted with brine (1 L) and ethyl acetate (6 L). The aqueous phase was extracted with ethyl acetate (4 L) and organic extracts were combined, washed with brine (1 L), dried and concentrated. The resulting residue was purified by column chromatography (eluting with hexanes/ethyl acetate=9:1 to 6:1) to give 92 g of tert-butyl 4-(3-chloropyrazin-2-yl)piperidine-1-carboxylate.

reactant | 1,2-dibromoethane | 0.106 mol, 9.1 mL, 0.16 eq. | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 0.106 mol, 13.5 mL, 0.16 eq. | Cl[Si](C)(C)C | C3H9ClSi
reactant | tert-butyl 4-iodopiperidine-1-carboxylate | 1.06 mol, 329 g, 1.59 eq. | IC1CCN(CC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | 2,3-dichloropyrazine | 0.664 mol, 99 g, 1 eq. | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | DMA | 270 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 670 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 670 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc | 1.29 mol, 84.4 g, 1.94 eq. | [Zn] | Zn
catalyst | PdCl2(dppf) CH2Cl2 | 19.9 mmol, 16.3 g, 0.03 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DMA | 400 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl 4-(3-chloropyrazin-2-yl)piperidine-1-carboxylate | 92 g | ClC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H20ClN3O2
